US07326791B2
4-[3-(tert-butoxycarbonylamino)methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-trifluoromethylbenzamide
Prepared analogously to Example 1g from 4-[3-(tert-butoxycarbonylamino)methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzoic acid, TBTU, N-methylmorpholine, and 5-chloro-1H-benzimidazol-2-ylethylamine in N-methylpyrrolidine. Yield: 30%; Rf value: 0.65 (silica gel; dichloromethane/methanol/ammonia=9:1:0.1); C29H30ClF3N6O3 (603.04); mass spectrum: (M+H)+=603/605 (chlorine isotope) and (M−H)-=601/603 (chlorine isotope).

reactant | 4-[3-(tert-butoxycarbonylamino)methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-3-trifluoromethylbenzoic acid | C(C)(C)(C)OC(=O)NCC1=NN(C2=C1CCC2)C2=C(C=C(C(=O)O)C=C2)C(F)(F)F | C20H22F3N3O4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 5-chloro-1H-benzimidazol-2-ylethylamine | ClC1=CC2=C(NC(=N2)CCN)C=C1 | C9H10ClN3
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
reactant | chlorine | ClCl | Cl2
solvent | N-methylpyrrolidine | CN1CCCC1 | C5H11N
product | 4-[3-(tert-butoxycarbonylamino)methyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl]-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-trifluoromethylbenzamide | Yield: 30% | C(C)(C)(C)OC(=O)NCC1=NN(C2=C1CCC2)C2=C(C=C(C(=O)N[C@@H](C)C1=NC3=C(N1)C=CC(=C3)Cl)C=C2)C(F)(F)F | C29H30ClF3N6O3
